US06051712
A solution of 2.5 g (8.9 mmol) of (3RS,4RS)-1-benzyl-4-(p-tolyl)-piperidin-3-ol in 100 ml of methanol was hydrogenated at 5 bar at room temperature for 18 hours using a palladium (10%)-carbon catalyst. For the working up, the catalyst was filtered off, washed with methanol and the solution obtained was evaporated under reduced pressure. For purification, the residue was chromatographed on silica gel using a 5:1:0.1 mixture of methylene chloride, methanol and ammonia as the eluent. There were obtained 1.15 g (68% of theory) of (3RS,4RS)-4-(p-tolyl)-piperidin-3-ol as a colourless solid; MS: 191 (M)+.

reactant | (3RS,4RS)-1-benzyl-4-(p-tolyl)-piperidin-3-ol | 8.9 mmol, 2.5 g | C(C1=CC=CC=C1)N1CC(C(CC1)C1=CC=C(C=C1)C)O | C19H23NO
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (3RS,4RS)-4-(p-tolyl)-piperidin-3-ol | 1.15 g, 68% | C1(=CC=C(C=C1)C1C(CNCC1)O)C | C12H17NO
